US08466176B2
To a stirred solution of N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (2.15 g, 10.58 mmol, 1.0 eq.) in 20 ml of MeCN was added Cs2CO3 (4.12 g, 12.69 mmol, 1.2 eq.) followed by KI (0.17 g, 1.05 mmol, 0.1 eq.) in one portion. The resulting suspension was stirred for 5 mins before addition of 2,5-dichloro-4-(chloromethyl)-1,3-thiazole (2.35 g, 11.63 mmol, 1.1 eq.) in one portion. The reaction was stirred for 24 hrs at room temperature. The solvent was evaporated and the residue was dissolved in EtOAc and washed with H2O. The organic layer was separated, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give N-[(2,5-dichloro-1,3-thiazol-4-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (1.65 g, 42% yield, 86:14 mixture of stereoisomers) as a yellow viscous oil.

reactant | N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 10.58 mmol, 2.15 g, 1.0 eq. | ON=C(C1=CC=CC=C1)C1=NN=NN1C | C9H9N5O
reactant | Cs2CO3 | 12.69 mmol, 4.12 g, 1.2 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,5-dichloro-4-(chloromethyl)-1,3-thiazole | 11.63 mmol, 2.35 g, 1.1 eq. | ClC=1SC(=C(N1)CCl)Cl | C4H2Cl3NS
solvent | MeCN | 20 ml | CC#N | C2H3N
product | N-[(2,5-dichloro-1,3-thiazol-4-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 1.65 g, 42% yield | ClC=1SC(=C(N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C)Cl | C13H10Cl2N6OS
